US08026234B2
3-Fluoro-5-methoxy-4-nitrobenzoic acid.
A suspension of 3-fluoro-5-methoxy-4-nitrobenzonitrile (940 mg, 4.8 mmol) in a mixture of concentrated H2SO4 and water (2 mL/2 mL) was heated at 100° C. overnight. The reaction mixture was then cooled down, solid filtered and dried to give the product as brown solid (770 mg, 75%).

reactant | 3-fluoro-5-methoxy-4-nitrobenzonitrile | 4.8 mmol, 940 mg | FC=1C=C(C#N)C=C(C1[N+](=O)[O-])OC | C8H5FN2O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | 2 mL | O | H2O
product | 3-Fluoro-5-methoxy-4-nitrobenzoic acid | 770 mg, 75% | FC=1C=C(C(=O)O)C=C(C1[N+](=O)[O-])OC | C8H6FNO5
